US07094780B1
Synthesis of 2-Methoxymethylacrylic acid ethyl ester
A solution of ethyl α-(bromomethyl)acrylate (0.99 g, 5.1 mmol [Villieras J., Rambaud M., Synthesis, 1982:924–926]) in methanol (10 mL) is added to an ice-cold solution of sodium methoxide (0.33 g, 6.1 mmol) in methanol (50 mL). The suspension is refluxed for 21 hours, cooled, diluted with water and extracted with dichloromethane. The organic extracts are dried over Na2SO4, filtered and concentrated under vacuum. The resulting residue is purified by flash column chromatography (1:5 ethyl acetate/hexanes) to afford the title compound (0.211 g). 1H NMR (200 MHz, CDCl3): δ 6.33–6.26 (m, 1H), 5.88–5.80 (m, 1H), 4.23 (q, 2H), 4.19–4.10 (m, 2H), 3.41 (s, 3H), 1.31 (t, 3H).

reactant | ethyl α-(bromomethyl)acrylate | 5.1 mmol, 0.99 g | BrCC(C(=O)OCC)=C | C6H9BrO2
reactant | sodium methoxide | 6.1 mmol, 0.33 g | C[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
solvent | water | O | H2O
product | 2-Methoxymethylacrylic acid ethyl ester | 0.211 g | C(C)OC(C(=C)COC)=O | C7H12O3
